US06002008
N'-[2-Carbethoxy-4,5-bis(2-methoxyethoxy)phenyl]-N,N-dimethylformamidine
To a stirred solution of 15.7 g (50 mmol) of ethyl 2-amino-4,5-bis(2-methoxyethoxy)-benzoate (Pfizer patent WO 96130347) in 50 ml of DMF at 0° C. was added phosphorous oxychloride (5.6 ml, 60 mmol) during 15 m. The resulting solution was heated at 55° C. for 45 m, cooled, diluted with methylene chloride, and treated at 0° C. with 200 ml of N/i sodium hydroxide during 2 m. The organic layer was separated and washed at 0° C. with water. The solution was dried and evaporated with added toluene present to give 18.4 g of amber oil; NMR (CDCl3) δ 3.02 (s, Me2N).

reactant | ethyl 2-amino-4,5-bis(2-methoxyethoxy)-benzoate | 50 mmol, 15.7 g | NC1=C(C(=O)OCC)C=C(C(=C1)OCCOC)OCCOC | C15H23NO6
reactant | phosphorous oxychloride | 60 mmol, 5.6 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | [OH-].[Na+]
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N'-[2-Carbethoxy-4,5-bis(2-methoxyethoxy)phenyl]-N,N-dimethylformamidine | 18.4 g | C(=O)(OCC)C1=C(C=C(C(=C1)OCCOC)OCCOC)N=CN(C)C | C18H28N2O6
